Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
HPI: The patient is a ___ yr M w/ PMH of HIV (last CD4 count=500) 
and congenital deafness who presents for two events in last day 
concerning for seizures. Hx obtained from pt and partner at 
bedside with assistance of ASL interpreter.

Pt reports that earlier in day upon standing pt began to feel 
dizzy w/ strange sensation in his chest and diaphoresis. He lost 
his balance and subsequently fell, with partner catching him. Pt 
reports losing consciousness and partner noted him to shake his 
L arm as well as develop perioral cyanosis. Event lasted for a 
few minutes prior to pt waking up with postictal lethargy. 
Denies any associated tongue biting, urinary incontinence, or 
headache but did develop loose bowels. EMS was called and pt was 
brought to OSH. While there waiting on stretcher, he was seen by 
partner to lose consciousness and develop shaking movements of 
extremities associated with eyes rolled up and foaming at the 
mouth. He was given 2mg Ativan and 2g Keppra with resolution 
after ___ minutes. Pt woke up with postictal confusion, not 
knowing where he was. Due to this recurrent event in setting of 
HIV infxn, pt was transferred to ___ for further management.

Pt denies any events like this in the past, with no recent sleep 
deprivation, acute stress, f/c, falls, or infxns. Pt does not 
know his family history. Outside ED room, partner states that pt 
does not appear to be at his cognitive baseline (signing much 
slower than usual) and has occasionally missed his HIV therapy 
in the recent past, with his current CD4 count (at 500) the 
lowest it has been.
  
Neurologic and General ROS negative except as noted above

 
Past Medical History:
PMH/PSH:  
HIV infection (last CD4 count=500); pt cannot recall name of his 
HIV doctor although is in ___
 
Social History:
___
Family History:
Unknown (pt states his family lives in ___ and they are 
estranged)
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION  
Vitals: T: 98.2 HR: 100 BP: 106/82 RR: 16 SaO2: 96% RA  
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: CTAB, no crackles or wheezes  
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
Awake, alert, oriented to person, "hospital", and month (states 
it is the ___ and year is ___. Able to relate history without 
difficulty although noted to have inconsistencies throughout 
interview. ___ impaired with inability to recall current events 
or name of president. Attentive to examiner. While speech cannot 
be accurately assessed, informed that pt's ASL is slower than 
usual. No evidence of hemineglect. No ___ confusion. Able 
to follow both midline and appendicular commands. 
 
- Cranial Nerves - PERRL 4->2 brisk. VF full to number counting. 
EOMI, no nystagmus. ___ without deficits to light touch 
bilaterally. No facial movement asymmetry. Congenital deafness 
noted. SCM/Trapezius strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    
- Sensory - No deficits to light touch, temperature, or 
proprioception bilaterally. No extinction to DSS. 

-DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      1       
     R  2+    2+     2+      1         
Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing 
bilaterally. 

- Gait - Pt able to move to side of bed briskly, although seen 
to have significant sway upon attempting to stand. 

DISCHARGE PHYSICAL EXAM 

PHYSICAL EXAMINATION  
Vitals: T 97.4F, BP 132/84, HR 91, RR 16, O2 SAT 93% RA 
General: NAD  
Abdomen: Soft, NT, ND, +BS, no guarding, no hepatosplenomegaly   

Extremities: Warm, no edema  

Neurologic Examination:  
Awake, alert, oriented to person, place and time. Slight 
inattention. Signing normally and participating in conversation. 
No ___ confusion. Able to follow both midline and 
appendicular commands. 
 
- Cranial Nerves - PERRL 4->2 brisk. VF full to number counting. 
EOMI, no nystagmus. ___ without deficits to light touch 
bilaterally. No facial movement asymmetry. Congenital deafness 
noted. SCM/Trapezius strength ___ bilaterally. Tongue midline.  

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    
- Sensory - No deficits to light touch, temperature, or 
proprioception bilaterally. No extinction to DSS. 

-DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      1       
     R  2+    2+     2+      1         
Plantar response flexor bilaterally.  

- Coordination - No dysmetria with finger to nose testing 
bilaterally. 

- Gait - normal gait 

 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 09:05AM    5.0 3.90* 13.6* 39.5* 101* 34.9* 34.4 
13.3 49.9* 264 Import Result 

 
___ 01:20PM    5.8 3.97* 13.7 38.8* 98 34.5* 35.3 13.2 
47.4* 315 Import Result 

 
___ 07:55PM    11.1* 3.91* 13.7 37.0* 95 35.0* 37.0 12.7 
44.2 335 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas ___ 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 01:20PM    72.7*   17.9* 8.4 0.2* 0.5       0.3 
4.21# 1.04* 0.49 0.01* 0.03 Import Result 

 
___ 07:55PM    80.1*   11.9* 7.1 0.1* 0.2     0.2* 0.6 
8.87* 1.32 0.79 0.01* 0.02 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 09:05AM    264 Import Result 

 
___ 01:20PM    315 Import Result 

 
___ 07:55PM    335 Import Result 

 
 T LYMPHOCYTE SUBSET  WBC Lymph Abs ___ CD3% Abs CD3 CD4% Abs 
CD4 CD8% Abs CD8 CD4/CD8 
___ 01:20PM    PND PND PND PND PND PND PND PND PND PND 
Import His CD4 count is lower than prior at 330

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 09:05AM    101* 9 0.9 139 3.6 ___ Import 
Result 

 
___ 01:20PM    138* 8 1.0 135 3.5 ___ Import 
Result 

 
___ 07:55PM    113* 6 0.9 124* 3.6 88* 19* 21* Import 
Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 07:55PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 01:20PM    54* 152* 348* 3235* 150*   0.7   Import 
Result 

 
___ 07:55PM    52* 127*     119   0.8   Import Result 

 
 OTHER ENZYMES & BILIRUBINS GGT 
___ 01:20PM    315* Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 09:05AM          8.7 2.1* 2.2     Import Result 

 
___ 01:20PM      4.0   8.6 2.4* 2.4     Import Result 

 
___ 07:55PM      4.0   8.3* 2.3* 2.3     Import Result 

 
 HEMATOLOGIC VitB12 Folate 
___ 01:20PM    528 12 Import Result 

 
 PITUITARY TSH 
___ 01:20PM    1.4 Import Result 

 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl 
___ 07:55PM    NEG NEG NEG NEG NEG NEG Import Result 

 
 LAB USE ONLY LtGrnHD GreenHd Prblm HoldBLu RedHold 
___ 01:30AM            HOLD Import Result 

 
___ 07:55PM          HOLD   Import Result 

 
___ 07:55PM    HOLD         Import Result 

 
___ 07:55PM      HOLD       Import Result 

 
___ 10:40AM        ___ ___      ___ Result 

 
 VIRAL LOADS CMV VL 
___ 09:05AM    PND Import Result 

 
 LAB USE ONLY 
___ 09:05AM    Import Result 

 
___ 01:20PM    Import Result 

 
___ 07:55PM    Import Result 

 
 

Blood Gas 
 WHOLE BLOOD, MISCELLANEOUS CHEMISTRY Na 
___ 01:41AM    131* Import Result 
 
 

 
Brief Hospital Course:
Patient is a ___ old male with HIV who presented with new onset 
GTC (2 last <5min each within 24hr period). Seizures possibly in 
setting of hyponatremia (Na 124 on admission which resolved) vs 
infection vs inflammatory process. His MRI showed prominent 
ventricles and a punctate lesion around the left periventricular 
area. An LP was done and CSF studies were sent for EBV, viral 
and tb cultures. Patient also had elevated LFT and GGT and plan 
was to conduct CT torso however patient refused. Patient refused 
EEG testing as well, however he did not have any further 
clinical seizures since admission to Neurology. He was started 
on Keppra 750mg BID and continued on his home HAART (Atripla 
qd). He left AMA. 

Transition of Care:
- Patient instructed to follow up with his PCP ___ of 
discharge 
- Patient instructed to follow up with Neurology as outpatient
- Patient started on Keppra 750mg BID, no changes made to other 
home medications 
- Consider EEG and CT torso and trend LFT/GGT as outpatient per 
patient and PCP discretion 
- ___ patient has another seizure, please turn him to the side 
and call ___.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atripla ___ mg oral 
DAILY 
2. Cyanocobalamin 50 mcg PO DAILY 

 
Discharge Medications:
1.  Atripla ___ mg oral 
DAILY  
2.  Cyanocobalamin 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___ you were admitted to ___ for management of 
seizures. You were started on Keppra 750mg BID. You chose to 
leave against medical advice prior to completion of your workup. 

 
Followup Instructions:
___